US05856274
n-Butylithium (2.5M in hexane, 140 ml) was added to a stirred, cooled solution of crude 2-chloro-6-fluorothioanisole (60.0 g) in dry tetrahydrofuran while maintaining the temperature below -70° C. The mixture was stirred at -78° C. for 3.5 hours then poured onto solid carbon dioxide pellets. It was stirred and allowed to warm to room temperature. It was evaporated to dryness and the residue was dissolved in water and washed with ether. The aqueous layer was acidified to pH1 and extracted with ether, washed with water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness and the residue was triturated with hexane and filtered to give 4-chloro-2-fluoro-3-(methylsulphenyl)benzoic acid as a white solid, m.p. 183°-185° C.

reactant | 2-chloro-6-fluorothioanisole | 60.0 g | ClC1=C(C(=CC=C1)F)SC | C7H6ClFS
reactant | carbon dioxide | C(=O)=O | CO2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-chloro-2-fluoro-3-(methylsulphenyl)benzoic acid | ClC1=C(C(=C(C(=O)O)C=C1)F)SC | C8H6ClFO2S
